US05744478
7,9-Difluoro-1-methyl-8-(2-methylamino-8-azabicyclo[4.3.0]non-3-en-8-yl)-5-oxo-5H-thiazolo[3.2-a]quinoline-4-carboxylic acid
100 mg (0.318 mmol) of 7,8,9-trifluoro-1-methyl-5-oxo-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid are heated at 80° C. under argon for 2 hours with 97 mg (0.64 mmol) of 2-methylamino-8-azabicyclo[4.3.0]-non-3-ene in 3 ml of DMSO. The mixture is concentrated in a high vacuum, the residue is recrystallized from ethanol and the product is dried.

reactant | 7,8,9-trifluoro-1-methyl-5-oxo-5H-thiazolo[3,2-a]quinoline-4-carboxylic acid | 0.318 mmol, 100 mg | FC=1C=C2C(C(=C3N(C2=C(C1F)F)C(=CS3)C)C(=O)O)=O | C13H6F3NO3S
reactant | 2-methylamino-8-azabicyclo[4.3.0]-non-3-ene | 0.64 mmol, 97 mg | CNC1C2CNCC2CC=C1 | C9H16N2
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
product | 7,9-Difluoro-1-methyl-8-(2-methylamino-8-azabicyclo[4.3.0]non-3-en-8-yl)-5-oxo-5H-thiazolo[3.2-a]quinoline-4-carboxylic acid | FC=1C=C2C(C(=C3N(C2=C(C1N1CC2CC=CC(C2C1)NC)F)C(=CS3)C)C(=O)O)=O | C22H21F2N3O3S
